US05719141
k) 3-Tert-butoxycarbonyl-2,2-dimethyl-4-(S)-[(1-vinylcyclopropyl)methyl]-1,3-oxazolidine
27.05 g of sodium-hexamethyldisilazane are added in portions to a suspension of 52.7 g of methyltriphenylphosphonium bromide in 470 ml of tetrahydrofuran in the course of 10 min. 20.9 g of 3-tert-butoxycarbonyl-2,2-dimethyl-4(S)-[(1-formylcyclopropyl)methyl]-1,3-oxazolidine are added dropwise to this mixture at 5° C. in the course of 10 min, and after warming to room temperature, the mixture is stirred for 1 h. The mixture is poured onto ice-water and the aqueous phase is extracted with methylene chloride. The title compound is purified by means of FC over 900 g of silica gel (mobile phase G): Rf (G)=0.56.

reactant | sodium hexamethyldisilazane | 27.05 g | [Na].C[Si](N[Si](C)(C)C)(C)C
reactant | 3-tert-butoxycarbonyl-2,2-dimethyl-4(S)-[(1-formylcyclopropyl)methyl]-1,3-oxazolidine | 20.9 g | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1(CC1)C=O)(C)C | C15H25NO4
catalyst | methyltriphenylphosphonium bromide | 52.7 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | tetrahydrofuran | 470 ml | O1CCCC1 | C4H8O
product | 3-Tert-butoxycarbonyl-2,2-dimethyl-4-(S)-[(1-vinylcyclopropyl)methyl]-1,3-oxazolidine | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1CC1(CC1)C=C)(C)C | C16H27NO3
